US05607960
(a) 5-Bromo-3-[N-(2-carbamoylethyl)-2(R)-pyrrolidinylmethyl]-1H-indole
A stirred mixture of 5-bromo-3-(2(R)-pyrrolidinylmethyl)-1H-indole (Preparation 2; 600 mg, 2.1 mmol), acrylamide (168 mg, 2.4 mmol), triethylamine (0.60 ml) and 1,2-dimethoxyethane (11.9 ml), under nitrogen, was heated under reflux for 8 hours, allowed to cool, then partitioned between ethyl acetate (400 ml) and water (400 ml). The organic phase was separated, washed with water (400 ml), dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with a solvent gradient of 0.880 aqueous ammonia:methanol: dichloromethane (0.1:10:90 to 0.4:10:90), to afford the required product as a foam. Rf 0.26 (SS 7). [α]D25 +59° (c=0.1, CH3OH).

reactant | 5-bromo-3-(2(R)-pyrrolidinylmethyl)-1H-indole | 2.1 mmol, 600 mg | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C13H15BrN2
reactant | acrylamide | 2.4 mmol, 168 mg | C(C=C)(=O)N | C3H5NO
reactant | triethylamine | 0.60 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 11.9 ml | COCCOC | C4H10O2
product | 5-Bromo-3-[N-(2-carbamoylethyl)-2(R)-pyrrolidinylmethyl]-1H-indole | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)CCC(N)=O | C16H20BrN3O
